US08580790B2
Step b) (2-Phenyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine)
4.5 g of the product of step a) are charged to a round-bottomed flask with 34 ml of DMF and 2.6 g of thiobenzamide. Heating is carried out at a temperature of 60° C. for 6 hours. An aqueous ammonia solution is added until a basic pH is obtained and evaporation is carried out under vacuum.

reactant | thiobenzamide | 2.6 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | ammonia | N | H3N
solvent | DMF | 34 ml | CN(C)C=O | C3H7NO
product | 2-Phenyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | C1(=CC=CC=C1)C=1SC=2CNCCC2N1 | C12H12N2S
